US04487764
(c) Z-D-Phe-Trp-Pro-OBut
1.28 ml (10 mmoles) of N-ethylmorpholine and 2.26 g (11 mmoles) of DCC are added at 0° C. to a solution of 3.46 g (10 mmoles) of H-Trp-Pro-OBut.HCl. 2.29 g (10 mmoles) of Z-D-Phe-OH and 1.35 g (10 mmoles) of HOBt in 25 ml of dimethylformamide. The mixture is stirred for 2 hours at 0° C. and left to stand overnight at room temperature. The precipitate is filtered and the filtrate is concentrated. The residue is worked up analogously to Example 1 a. The residue crystallizes from ether. Yield 3.91 g (61%), melting point 186°, [α]D23 =-53.6° (c=1, methanol).

reactant | N-ethylmorpholine | 10 mmoles, 1.28 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 11 mmoles, 2.26 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Trp-Pro-OBut.HCl | 10 mmoles, 3.46 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1.Cl
reactant | Z-D-Phe-OH | 10 mmoles, 2.29 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | HOBt | 10 mmoles, 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Z-D-Phe-Trp-Pro-OBut | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C37H42N4O6
